US06455550B1
Preparation of 1-[2-(Methylthio)ethyl]cyclopentane Carboxylic Acid Methyl Ester
To a solution of 1-(2-bromoethyl)cyclopentane carboxylic acid methyl ester (2.0 mmol, 472 mg) in DMF (5 mL) was added sodium thiomethoxide (2.65 mmol, 186 mg). The reaction mixture was stirred for 15 h at room temperature and was poured into water (30 mL). The organic compound was extracted into diethyl ether (2×20 mL). The combined extracts were washed with a saturated solution of sodium chloride (50 mL) and dried over anhydrous magnesium sulfate. After filtration of the drying agent, the solution was concentrated under vacuum and the resulting residue was purified by silica gel column chromatography to afford 334 mg (82%) of a colorless oil. HR MS C10H18O2S): Obs mass, 202.1024. Calcd mass, 202.1028 (M+).

reactant | 1-(2-bromoethyl)cyclopentane carboxylic acid methyl ester | 2.0 mmol, 472 mg | COC(=O)C1(CCCC1)CCBr | C9H15BrO2
reactant | sodium thiomethoxide | 2.65 mmol, 186 mg | C[S-].[Na+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[2-(Methylthio)ethyl]cyclopentane Carboxylic Acid Methyl Ester | 334 mg, 82% | COC(=O)C1(CCCC1)CCSC | C10H18O2S
